US06403610B1
2.06 g of 2-chloroethyl cyclohexyl sulfide in 50 cm3 of acetonitrile, followed by 1.78 g of potassium iodide and 7.25 g of potassium carbonate, were added with stirring, at a temperature in the region of 20° C. and under an inert atmosphere, to a solution of 3.9 g of methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate in 50 cm3 of acetonitrile. The mixture was heated for 18 hours at a temperature in the region of 80° C. After cooling to approximately 20° C., the mixture had 100 cm3 of water and 100 cm3 of ethyl acetate added. The organic phase was separated by settling, while the aqueous phase was extracted with 200 cm3 of ethyl acetate. The organic extracts were combined, dried over sodium sulfate, filtered, and concentrated under reduced pressure (5 kPa) at a temperature in the region of 45° C. An oil was obtained, which product was purified by chromatography under a nitrogen pressure of 50 kPa on a column of silica gel (particle size 20-45 μ; diameter 3.5 cm; height 46 cm), elution was carried out with. a dichloromethane/methanol (95/5 by volume) mixture, and 50-cm3 fractions were collected. Fractions 18 to 37 were combined and concentrated as above. A product was obtained, which product was purified a second time by chromatography under a nitrogen pressure of 50 kPa on a column of silica gel (particle size 20-45 μ; diameter 4 cm; height 40 cm), elution was carried out with an ethyl acetate/cyclohexane (7/3 by volume) mixture, and 100-cm3 fractions were collected. Fractions 24 to 54 were combined and then concentrated under the same conditions as above. 3.7 g of methyl (3R,4R)-1-[2-(cyclohexylthio)ethyl]-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate were obtained in the form of an oil with a brown color.

reactant | 2-chloroethyl cyclohexyl sulfide | 2.06 g | C1(CCCCC1)SCCCl | C8H15ClS
reactant | potassium iodide | 1.78 g | [I-].[K+]
reactant | potassium carbonate | 7.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate | 3.9 g | O=C(CC[C@H]1[C@H](CNCC1)CC(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C21H26N2O4
solvent | acetonitrile | 50 cm3 | C(C)#N | C2H3N
solvent | acetonitrile | 50 cm3 | C(C)#N | C2H3N
solvent | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 100 cm3 | O | H2O
product | methyl (3R,4R)-1-[2-(cyclohexylthio)ethyl]-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate | 3.7 g | C1(CCCCC1)SCCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)=O)CC(=O)OC | C29H40N2O4S
